US07157464B2
BINAP (219 mg), Pd(II)acetate (397 mg, 0.176 mmol), tBuONa (1.19 g, 12.3 mmol), piperazine (837 mg, 9.73 mmol) and THF (40 mL) were mixed together and stirred at room temperature for 30 min under nitrogen atmosphere. 2,4-dichlorobromobenzene (2 g, 8.84 mmol) in THF (10 mL) was added to the mixture drop wise and heated at 70° C. for 14 h. Excess THF was then evaporated and extracted with ethyl acetate. The crude product was obtained on concentration of the ethyl acetate layer after washing with brine and drying. Flash chromatography on silica gel eluting with 2% MeOH in CHCl3 gave 1-(2,4-Dichloro-phenyl)-piperazine.

reactant | BINAP | 219 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | tBuONa | 12.3 mmol, 1.19 g | CC(C)(C)[O-].[Na+]
reactant | piperazine | 9.73 mmol, 837 mg | N1CCNCC1 | C4H10N2
reactant | 2,4-dichlorobromobenzene | 8.84 mmol, 2 g | ClC1=C(C=CC(=C1)Cl)Br | C6H3BrCl2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 1-(2,4-Dichloro-phenyl)-piperazine | ClC1=C(C=CC(=C1)Cl)N1CCNCC1 | C10H12Cl2N2
